US06441017B1
Step D: 4-(tert-Butyldimethylsilyloxymethyl)-1-(triphenylmethyl)imidazole
4-(Hydroxymethyl)-1-(triphenylmethyl)imidazole, as described in Example 1, Step A, (1.97 g, 5.72 mmol) and 4-(dimethylamino) pyridine (280 mg, 2.29 mmol) were stirred in CH2Cl2 (15 mL) and tert-butyldimethylsilyl chloride (905 mg, 6.01 mmol) was added. After 1 min, triethylamine (0.88 mL, 6.31 mmol) was added dropwise over 3 min. The reaction mixture was stirred for 45 min, then CH2Cl2 (150 mL) was added and the solution was washed with 0.1 N HCl (50 mL). The organic layer was dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with hexane—30% EtOAc, to yield the titled product as a white solid.

reactant | 4-(Hydroxymethyl)-1-(triphenylmethyl)imidazole | OCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
reactant | tert-butyldimethylsilyl chloride | 6.01 mmol, 905 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 6.31 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino) pyridine | 2.29 mmol, 280 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-(tert-Butyldimethylsilyloxymethyl)-1-(triphenylmethyl)imidazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2OSi
